US06022894
Powdered sodium cyanide (1.18 g, 24 mmol) was placed in a flask and covered with 5.5 mL of acetic acid. A mixture of sulfuric acid (3 mL) and acetic acid (2.75 mL) was cooled to 0° C. and then added to the cyanide suspension over a period of 3 minutes. The mixture was stirred for 30 minutes at room temperature, followed by the addition of 1,1-diethyl-2-(4-methoxyphenyl)ethanol (4.6 g, 22 mmol). The mixture was stirred overnight then poured into ice and sodium hydroxide. The product was extracted with ether, and the ether layer dried over anhydrous sodium sulfate, and concentrated. The residue was suspended in 20% sodium hydroxide and refluxed overnight under nitrogen. The reaction was cooled, diluted with water, and extracted with ether. The ether layer was separated, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by reversed-phase HPLC (C-18 using 0.1% HCl/acetonitrile as the elutant) to give 1.91 g of 1,1-diethyl-2-(4-methoxyphenyl)ethylamine.

reactant | sodium cyanide | 24 mmol, 1.18 g | [C-]#N.[Na+]
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
reactant | cyanide | [C-]#N
reactant | 1,1-diethyl-2-(4-methoxyphenyl)ethanol | 22 mmol, 4.6 g | C(C)C(CC1=CC=C(C=C1)OC)(O)CC | C13H20O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 2.75 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5.5 mL | C(C)(=O)O | C2H4O2
product | 1,1-diethyl-2-(4-methoxyphenyl)ethylamine | 1.91 g | C(C)C(CC1=CC=C(C=C1)OC)(CC)N | C13H21NO
